US07368578B2
A mixture of 4-chloromethyl-2-(2-furyl)-5-methyl-1,3-oxazole (30.0 g), 3-ethoxy-4-hydroxybenzaldehyde (22.9 g), potassium carbonate (21.01 g) and N,N-dimethylformamide (300 mL) was stirred at 90° C. for 2 hrs. Water was poured into the reaction mixture, and the precipitated crystals were collected by filtration to give 3-ethoxy-4-[[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy]benzaldehyde as brown crystals (31.20 g, yield 69%). Recrystallization from ethyl acetate-hexane gave pale-yellow needle. melting point: 159-160° C.

reactant | 4-chloromethyl-2-(2-furyl)-5-methyl-1,3-oxazole | 30.0 g | ClCC=1N=C(OC1C)C=1OC=CC1 | C9H8ClNO2
reactant | 3-ethoxy-4-hydroxybenzaldehyde | 22.9 g | C(C)OC=1C=C(C=O)C=CC1O | C9H10O3
reactant | potassium carbonate | 21.01 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 3-ethoxy-4-[[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy]benzaldehyde | 31.20 g, yield 69% | C(C)OC=1C=C(C=O)C=CC1OCC=1N=C(OC1C)C=1OC=CC1 | C18H17NO5
